US04260615
Depending on the type of the second antimalarial used with the tetrahydroacridones, the preferred proportions by weight used vary. When using Floxacrine in admixture with Quinine, a ratio of 1:10 to 1:160, in particular from 1:40 to 1:80; in admixture with Chloroquine from 4:1 to 1:20, in particular 2:1 to 1:8; in admixture with Mefloquine from 1:1.25 to 1:10; in admixture with Primaquine from 1:1.25 to 1:20, in particular 1:2.5 to 1:20; in admixture with Pyrimethamine from 21:1 to 1:1.5, in particular 10.4:1 to 1:1.5; in admixture with Cycloguanil from 1:35 to 1:284, in particular 1:142 to 1:284; in admixture with Trimethroprim from 1:10 to 1:80, in particular 1:40 to 1:80; in admixture with Sulfadoxine from 1:1 L to 1:32, in particular 1:1 to 1:6; in admixture with Dapsone from 1:5 to 1:80, in particular 1:10 to 1:80, the best synergistic was obtained.

reactant | Floxacrine | C1=CC(=CC=C1C2CC3=C(C(=O)C2)C(=O)C=4C=C(C=CC4N3O)Cl)C(F)(F)F | C20H13ClF3NO3
reactant | Quinine | COC=1C=CC2=C(C1)C(=CC=N2)[C@H]([C@@H]3C[C@@H]4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | Chloroquine | CCN(CC)CCCC(C)NC=1C=CN=C2C1C=CC(=C2)Cl | C18H26ClN3
reactant | Mefloquine | C1=CC2=C(C=C(N=C2C(=C1)C(F)(F)F)C(F)(F)F)C(C3CCCCN3)O | C17H16F6N2O
reactant | Primaquine | CC(CCCN)NC1=CC(=CC2=C1N=CC=C2)OC | C15H21N3O
reactant | Pyrimethamine | CCC1=C(C(=NC(=N1)N)N)C=2C=CC(=CC2)Cl | C12H13ClN4
reactant | Cycloguanil | CC1(N=C(N=C(N1C=2C=CC(=CC2)Cl)N)N)C | C11H14ClN5
reactant | Sulfadoxine | COC=1C(=NC=NC1OC)NS(=O)(=O)C=2C=CC(=CC2)N | C12H14N4O4S
product | Dapsone | C1=CC(=CC=C1N)S(=O)(=O)C=2C=CC(=CC2)N | C12H12N2O2S
